US07709471B2
4-amino-N-(3-dimethylamino-2,2-dimethyl-propyl)benzamide
To a solution of 4-aminobenzoic acid (Aldrich; 4.0 g, 29.17 mmol) in DMF (100 mL) was added N,N,2,2-tetramethyl-1,3-diaminopropane (Aldrich; 5 mL, 31.38 mmol). An immediate solid precipitate formed. DIPEA (15 ml, 86.11 mmol) was added and the resultant suspension stirred HATU (13 g, 34.18 mmol) was added portionwise at such a rate and time interval as to maintain internal reaction temp <30° C.}. The resultant yellow solution was stirred at ambient temperature, overnight.

reactant | 4-aminobenzoic acid | 29.17 mmol, 4.0 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | N,N,2,2-tetramethyl-1,3-diaminopropane | 31.38 mmol, 5 mL | CN(CC(CN)(C)C)C | C7H18N2
reactant | DIPEA | 86.11 mmol, 15 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 34.18 mmol, 13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-amino-N-(3-dimethylamino-2,2-dimethyl-propyl)benzamide | NC1=CC=C(C(=O)NCC(CN(C)C)(C)C)C=C1 | C14H23N3O
